US04851519
A solution of 0.28 of 5'-(2-azidoethyl)-2',5'-dideoxy-5-ethyluridine in 50 ml of ethanol was hydrogenated over 50 mg of 10% palladium-on-carbon catalyst for 2 hours. The catalyst was removed by filtration and the filtrate was evaporated to dryness to give 0.23 g of 5'-(2-aminoethyl)-2',5'-dideoxy-5-ethyluridine in the form of a colorless oil which crystallized upon standing.

reactant | 5'-(2-azidoethyl)-2',5'-dideoxy-5-ethyluridine | N(=[N+]=[N-])CCC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)CC)O | C13H19N5O4
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 50 mg | [Pd] | Pd
product | 5'-(2-aminoethyl)-2',5'-dideoxy-5-ethyluridine | 0.23 g | NCCC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)CC)O | C13H21N3O4
